US07109219B2
N1-(2-Propyl)-5-(6-((2-propylamino)carbonyl)aminopyrimidin-4-yl)amino-1H-1-indolecarboxamide
Sodium hydride (48 mg, 1.2 mmol) was suspended in N,N-dimethylformamide (2.5 ml); 6-amino-4-(1H-5-indolylamino)pyrimidine (225.3 mg, 1.0 mmol) was added thereto at room temperature under nitrogen stream; the reaction mixture was stirred for 30 minutes; phenyl N-(2-propyl)carbamate (215 mg, 1.2 mmol) was added thereto; and the reaction mixture was stirred overnight. The reaction mixture was partitioned between a solvent mixture of ethyl acetate-tetrahydrofuran (1:1) and a saturated aqueous solution of sodium hydrogencarbonate; and the organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by silica gel column chromatography (eluent; ethyl acetate); eluted fractions were concentrated; ethyl acetate was added to the residue to crystallize; and the crystals were filtered off, and dried under aeration to yield the title compound (31.3 mg, 0.079 mmol, 7.9%) as white crystals.

reactant | Sodium hydride | 1.2 mmol, 48 mg | [H-].[Na+]
reactant | 6-amino-4-(1H-5-indolylamino)pyrimidine | 1.0 mmol, 225.3 mg | NC1=CC(=NC=N1)NC=1C=C2C=CNC2=CC1 | C12H11N5
reactant | phenyl N-(2-propyl)carbamate | 1.2 mmol, 215 mg | CC(C)NC(OC1=CC=CC=C1)=O | C10H13NO2
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | N1-(2-Propyl)-5-(6-((2-propylamino)carbonyl)aminopyrimidin-4-yl)amino-1H-1-indolecarboxamide | 0.079 mmol, 31.3 mg, 7.9% | CC(C)NC(=O)N1C=CC2=CC(=CC=C12)NC1=NC=NC(=C1)NC(=O)NC(C)C | C20H25N7O2
